US08648089B2
N,N-dimethyl-2-(4-(6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenoxy)ethanamine
The target compound was prepared as in Example 18 using 4-(6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenol (32 mg, 0.079 mmol), 2-chloro-N,N-dimethylethylamine hydrochloride (34 mg, 0.237 mmol) and cesium carbonate (154 mg, 0.237 mmol).

reactant | 4-(6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenol | 0.079 mmol, 32 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C2C(=CN(C2=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C25H17N3O3
reactant | 2-chloro-N,N-dimethylethylamine hydrochloride | 0.237 mmol, 34 mg | Cl.ClCCN(C)C
reactant | cesium carbonate | 0.237 mmol, 154 mg | C([O-])([O-])=O.[Cs+].[Cs+]
product | N,N-dimethyl-2-(4-(6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenoxy)ethanamine | CN(CCOC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=NC=C1)C | C29H26N4O3
